US08440666B2
1-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-isopropylmethanesulfonamide
Isopropylamine (0.262 mL, 3.07 mmol), chloromethylsulfonyl chloride (0.274 mL, 3.07 mmol) and triethylamine (0.856 mL, 6.14 mmol) were added to dichloromethane (2 mL) under cooling with ice, and the resulting mixture was stirred for 2 hours under cooling with ice. After completion of the reaction, the reaction mixture was mixed with ethyl acetate, and the organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting reaction product was dissolved in N,N-dimethylformamide (3.2 mL) and mixed with potassium carbonate (267 mg, 1.93 mmol) and 4-bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one (276 mg, 0.844 mmol) at room temperature and stirred at 80° C. for 4 hours. After cooling, the reaction solution was mixed with saturated aqueous ammonium chloride and extracted with ethyl acetate. The resulting organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography (chloroform/methanol=80/1) to give the desired product (22 mg, 4% yield).

reactant | Isopropylamine | 3.07 mmol, 0.262 mL | C(C)(C)N | C3H9N
reactant | chloromethylsulfonyl chloride | 3.07 mmol, 0.274 mL | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | triethylamine | 6.14 mmol, 0.856 mL | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 1.93 mmol, 267 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 0.844 mmol, 276 mg | BrC=1C(NN=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O | C14H20BrN3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3.2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-{5-Bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}-N-isopropylmethanesulfonamide | 22 mg, 4% yield | BrC1=C(C=NN(C1=O)CS(=O)(=O)NC(C)C)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C18H29BrN4O3S
